US04016165
In the manner given in Example 1, 7-fluoro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be reacted with chloropropanone to give 7-fluoro-2-[(2-chloro-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-fluoro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | FC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13FN4
reactant | chloropropanone | ClCC(C)=O | C3H5ClO
product | 7-fluoro-2-[(2-chloro-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | FC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)C)C2=CC=CC=C2)C1 | C18H16ClFN4
